US08242133B2
To a mixture of 0.77 g of 2-chloro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide, 20 ml of tetrahydrofuran and 0.80 g of triphenylphosphine, 1.32 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature, and the mixture solution was stirred for 1.5 hours at room temperature and then 1.5 hours at 60° C. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.60 g of 2-(2-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 21”).

reactant | 2-chloro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 0.77 g | ClC=1C=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN1 | C13H8ClF3N2O2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 1.32 g | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.60 g | ClC1=NC=CC(=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6ClF3N2O
